US08703978B2
Methyl 6-hydroxy-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate
A mixture of methyl 1,4-dihydroxynaphthalene-2-carboxylate (3.93 g, 18 mmol), 1-phenyl-1-(4-pyrrolidinophenyl)prop-2-yn-1-ol (5 g, 18 mmol) and Al2O3 (4 g) in PhMe (100 mL) was heated at reflux for 1.5 h, cooled, filtered, the residue washed with DCM and the solvent removed under reduced pressure. The residue was filtered through a short plug of silica using DCM (40% in hexanes) as eluent. The solvent was removed under reduced pressure and the residue was crystallized from Et2O-hexanes to give the title compound (5.47 g, 62%) as a yellow powder.

reactant | methyl 1,4-dihydroxynaphthalene-2-carboxylate | 18 mmol, 3.93 g | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)OC | C12H10O4
reactant | 1-phenyl-1-(4-pyrrolidinophenyl)prop-2-yn-1-ol | 18 mmol, 5 g | C1(=CC=CC=C1)C(C#C)(O)C1=CC=C(C=C1)N1CCCC1 | C19H19NO
reactant | PhMe | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 6-hydroxy-3-phenyl-3-(4-pyrrolidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate | 5.47 g, 62% | OC1=C(C=2C(OCC(C2)(C2=CC=C(C=C2)N2CCCC2)C2=CC=CC=C2)C2=CC=CC=C12)C(=O)OC | C31H29NO4
